US04156011
(a) 4-(4-Chlorophenoxy)-phenoxy-acetyl chloride
A mixture of 8.3 g (0.0298 mol) of 4-(4-chlorophenoxy)-phenoxy-acetic acid (CRL 40 333) prepared as indicated in Example 19 and of 10.8 ml (0.1500 mol) of thionyl chloride is heated to the reflux temperature for 30 minutes. After having taken up the reaction mixture in benzene and evaporated the solution to dryness under reduced pressure, 8.7 g of a beige powder are obtained.

reactant | 4-(4-chlorophenoxy)-phenoxy-acetic acid | 0.0298 mol, 8.3 g | ClC1=CC=C(OC2=CC=C(OCC(=O)O)C=C2)C=C1 | C14H11ClO4
reactant | thionyl chloride | 0.1500 mol, 10.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(4-Chlorophenoxy)-phenoxy-acetyl chloride | ClC1=CC=C(OC2=CC=C(OCC(=O)Cl)C=C2)C=C1 | C14H10Cl2O3
